US06599902B2
A solution of (S)-2-(cyclopropyl-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in 50% TFA in DCM was stirred at rt for 4 hours. The reaction was concentrated and purified to give (S)-pyrrolidine-2-carboxylic acid cyclopropylmethyl-amide.

reactant | (S)-2-(cyclopropyl-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(N(C)C1CC1)=O | C14H24N2O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-pyrrolidine-2-carboxylic acid cyclopropylmethyl-amide | C1(CC1)CNC(=O)[C@H]1NCCC1 | C9H16N2O
